US08097629B2
4-(2-Acetyl-3-oxobut-1-en-1-yl)benzonitrile
A solution of 4-cyanobenzonitrile (20 g, 0.15 mol), 2,4-pentanedione (17 g, 0.17 mol), piperidine (130 mg, 1.5 mmol) and p-toluene sulfonic acid (260 mg, 1.5 mmol) in toluene (400 ml) is refluxed overnight with a Dean-Stark trap. The solution is concentrated in vacuo and purified over silica gel with cyclohexane/ethyl acetate mixtures as eluent.

reactant | 4-cyanobenzonitrile | 0.15 mol, 20 g | C(#N)C1=CC=C(C#N)C=C1 | C8H4N2
reactant | 2,4-pentanedione | 0.17 mol, 17 g | CC(CC(C)=O)=O | C5H8O2
reactant | piperidine | 1.5 mmol, 130 mg | N1CCCCC1 | C5H11N
reactant | p-toluene sulfonic acid | 1.5 mmol, 260 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Acetyl-3-oxobut-1-en-1-yl)benzonitrile | C(C)(=O)C(=CC1=CC=C(C#N)C=C1)C(C)=O | C13H11NO2
